US05062884
a) 2--Bromo-5-nitrobenzaldehyde
A nitrating acid prepared at -10° C. by adding 55 ml of concentrated H2SO4 to 20 ml of 98 percent HNO3 was added dropwise, in the course of 60 minutes, to a solution of 63.4 g (0.34 mole) of 2-bromobenzaldehyde in 110 ml of concentrated H2SO4 at -5° C. Stirring was continued for a further 45 minutes, after which the reaction mixture was poured onto 550 g of ice, and the precipitated solid was filtered off under suction, washed with water, then with 10 percent strength Na2CO3 solution and again with water. Drying under reduced pressure at 50° C. gave 72 g (92% of theory) of product as a yellow solid of melting point 86°-88° C.

reactant | HNO3 | 20 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-bromobenzaldehyde | 0.34 mole, 63.4 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
solvent | H2SO4 | 110 ml | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 55 ml | OS(=O)(=O)O | H2O4S
product | 2--Bromo-5-nitrobenzaldehyde | BrC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4BrNO3
